US06642246B1
(R)-N-(1-Aza-bicyclo[2.2.2]oct-3-yl)[Z-3-(phenylthio)propenamide]hydrochloride
To a stirred solution of (R)-1-Aza-bicyclo[2.2.2]oct-3-ylamine dihydrochloride (25 g, 0.125 mol), 3-(phenylthio)acrylic acid (23.5 g, 0.13 mol), and diisopropylethylamine (90 ml) in dry DMF (600 ml) at ambient temperature was added in succession 1-hydroxybenzotriazole hydrate (17 g, 0.126 mol) and O-benzotriazol-1-yl-N.N,N′,N′-tetramethyluronium tetrafluoroborate (40 g, 0.124 mol). The resulting amber-colored solution was stirred overnight, diluted with water (1 vol), and extracted with ether (2×700 ml). The aqueous phase was made basic (pH 10) with 50% aqueous sodium hydroxide and extracted with chloroform (3×700 ml). The chloroform extracts were combined, washed with water, brine, dried over sodium sulfate and concentrated to dryness to give crude product as a syrup (40 g). The syrup was taken in isopropanol (IL), made acidic with gaseous HCL, and allowed to stand. The resulting solid was collected by filtration, recrystallized from isopropanol (2×), and dried in vacuo to give the title compound (8 g) as a white solid. MS (ES+) 289. (MH30).

reactant | (R)-1-Aza-bicyclo[2.2.2]oct-3-ylamine dihydrochloride | 0.125 mol, 25 g | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 3-(phenylthio)acrylic acid | 0.13 mol, 23.5 g | C1(=CC=CC=C1)SC=CC(=O)O | C9H8O2S
reactant | diisopropylethylamine | 90 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole hydrate | 0.126 mol, 17 g | O.ON1N=NC2=C1C=CC=C2
reactant | O-benzotriazol-1-yl-N.N,N′,N′-tetramethyluronium tetrafluoroborate | 0.124 mol, 40 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (R)-N-(1-Aza-bicyclo[2.2.2]oct-3-yl)[Z-3-(phenylthio)propenamide]hydrochloride | 8 g | Cl.N12C[C@@H](C(CC1)CC2)NC(\C=C/SC2=CC=CC=C2)=O | InChI=1S/C16H20N2OS.ClH/c19-16(8-11-20-14-4-2-1-3-5-14)17-15-12-18-9-6-13(15)7-10-18;/h1-5,8,11,13,15H,6-7,9-10,12H2,(H,17,19);1H/b11-8-;/t15-;/m0./s1
